US07199147B2
To a solution of N-(1-benzyl-4-piperidinyl)-1H-indazol-5-amine (3.06 g, 10.0 mmol) in tetrahydrofuran (31 ml) was added a 1N-hydrochloric acid/ether solution (25 ml) at room temperature, and stirred at room temperature for 30 minutes. The solid precipitated was collected by filtration and recrystallized from methanol to obtain N-(1-benzyl-4-piperidinyl)-1H-indazol-5-amine dihydrochloride monohydrate (2.86 g, 72%).

reactant | N-(1-benzyl-4-piperidinyl)-1H-indazol-5-amine | 10.0 mmol, 3.06 g | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C=C2C=NNC2=CC1 | C19H22N4
reactant | hydrochloric acid ether | 25 ml | Cl.CCOCC
solvent | tetrahydrofuran | 31 ml | O1CCCC1 | C4H8O
product | N-(1-benzyl-4-piperidinyl)-1H-indazol-5-amine dihydrochloride monohydrate | 2.86 g, 72% | O.Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC=1C=C2C=NNC2=CC1 | InChI=1S/C19H22N4.2ClH.H2O/c1-2-4-15(5-3-1)14-23-10-8-17(9-11-23)21-18-6-7-19-16(12-18)13-20-22-19;;;/h1-7,12-13,17,21H,8-11,14H2,(H,20,22);2*1H;1H2
